US06627629B2
Part H: Preparation of (3R,4S)-3-benzyloxycarbonylamino-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester
In a flask (3R,4S)-3-benzyloxycarbonylamino-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester (1.19 g, 2.93 mmol) was dissolved in tetrahydrofuran (48 mL) and lithium hydroxide (12 mL of a 1N aqueous solution, 15 mmol) was added. The mixture was stirred for 60 hours. The reaction mixture was acidified with aqueous hydrochloric acid (3 mL of a 2M solution) and then extracted with ethyl acetate three times (30 mL). The combined organic layers were dried with magnesium sulfate, filtered, and concentrated in vacuo to give a crude white solid (1.13 g) which was used without further purification. 1H NMR (300 MHz, CDCl3), δ: 7.35 (m, 5H), 5.10 (m, 2H), 3.91, (m, 2H), 3.19 (m, 1H), 2.71 (m, 2H), 1.92 (m, 1H), 1.74 (m, 2H), 1.45 (s, 9H). MS (APCI), m+/z: (M+H)+=379.

reactant | (3R,4S)-3-benzyloxycarbonylamino-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester | 2.93 mmol, 1.19 g | C(C)OC(=O)[C@@H]1[C@H](CN(CC1)C(=O)OC(C)(C)C)NC(=O)OCC1=CC=CC=C1 | C21H30N2O6
reactant | lithium hydroxide | [OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 48 mL | O1CCCC1 | C4H8O
product | (3R,4S)-3-benzyloxycarbonylamino-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester | 1.13 g | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C(=O)O)NC(=O)OCC1=CC=CC=C1 | C19H26N2O6
